US04526890
7.8 Grams (0.0462 mole) of the 6-chloro-7-methyl-s-triazolo[4,3-b]pyridazine is mixed with 7.86 grams (0.0924 mole) of piperidine in 50 ml of ethanol. The mixture is heated at reflux temperature for 4 hours. The mixture is concentrated by evaporation and the residue of the reaction mixture is partitioned between aqueous sodium bicarbonate solution and methylene chloride. The methylene chloride layer is separated, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The 7-methyl-6-piperidino-s-triazolo[4,3-b]pyridazine product is obtained as a residue from the evaporation. The product is recrystallized from hexane and found to melt at 78°-79° C. The structure of the product is confirmed by infrared spectroscopy, by nuclear magnetic resonance analysis, and by elemental analysis. (Calculated for C11H15N5 : C, 60.80; H, 6.96; N, 32.24. Found: C, 60.40; H, 6.98; N, 32.17.)

reactant | 6-chloro-7-methyl-s-triazolo[4,3-b]pyridazine | 0.0462 mole | ClC=1C(=CC=2N(N1)C=NN2)C | C6H5ClN4
reactant | piperidine | 0.0924 mole, 7.86 grams | N1CCCCC1 | C5H11N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-methyl-6-piperidino-s-triazolo[4,3-b]pyridazine | CC1=CC=2N(N=C1N1CCCCC1)C=NN2 | C11H15N5
